US08486967B2
c) 2-[6-(4-Chloro-benzyl)-2-(2′-methyl-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylamino)-pyrimidin-4-yl]-propan-2-ol
A solution of 2-[6-(4-chloro-benzyl)-2-(piperidin-4-ylamino)-pyrimidin-4-yl]-propan-2-ol (76 mg, 0.19 mmol), 4-chloro-2-picoline (24 mg, 0.19 mmol) and triethylamine (53 μL, 0.38 mmol) in sulfolane (0.76 mL) was stirred in a preheated oil bath at 150° C. for 30 minutes. After further addition of 4-chloro-2-picoline (24 mg, 0.19 mmol) and triethylamine (53 μL, 0.38 mmol) the solution was stirred for further 60 minutes at 150° C. It was diluted with ethyl acetate (15 mL) and was washed with 1 M aqueous sodium carbonate solution (20 mL), water (15 mL) and brine (15 mL). The combined aqueous layers were extracted with ethyl acetate (15 mL). The organic layer was dried over sodium sulfate. Concentration and purification by chromatography (SiO2, dichloromethane/methanol/triethylamine=95:4.5:0.5) afforded the title compound (34 mg, 40%) as an off-white foam.

reactant | 2-[6-(4-chloro-benzyl)-2-(piperidin-4-ylamino)-pyrimidin-4-yl]-propan-2-ol | 0.19 mmol, 76 mg | ClC1=CC=C(CC2=CC(=NC(=N2)NC2CCNCC2)C(C)(C)O)C=C1 | C19H25ClN4O
reactant | 4-chloro-2-picoline | 0.19 mmol, 24 mg | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | triethylamine | 0.38 mmol, 53 μL | C(C)N(CC)CC | C6H15N
reactant | 4-chloro-2-picoline | 0.19 mmol, 24 mg | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | triethylamine | 0.38 mmol, 53 μL | C(C)N(CC)CC | C6H15N
solvent | sulfolane | 0.76 mL | S1(=O)(=O)CCCC1 | C4H8O2S
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | 2-[6-(4-Chloro-benzyl)-2-(2′-methyl-3,4,5,6-tetrahydro-2H-[1,4′]bipyridinyl-4-ylamino)-pyrimidin-4-yl]-propan-2-ol | 34 mg, 40% | ClC1=CC=C(CC2=CC(=NC(=N2)NC2CCN(CC2)C2=CC(=NC=C2)C)C(C)(C)O)C=C1 | C25H30ClN5O
